US04734416
22.7 Grams of 8-bromo-5-methoxy-3,4-dihydrocarbostyril and 25 g of cuprous chloride are mixed with 100 ml of dimethyl sulfoxide and heated at 135°-140° C. for 4 hours under stirring condition. After the reaction is completed, the reaction mixture is mixed with 200 g of ice and 50 ml of concentrated hydrochloric acid and stirred at room temperature for 1 hour. The crystals thus precipitated are separated by filtration, washed first with diluted hydrochloric acid and then with water and dried. The crude crystals thus obtained are recrystallized from ligroin-benzene to obtain 13 g of 8-chloro-5-methoxy-3,4-dihydrocarbostyril in the form of pale orange needle-like crystals with a melting point of 165° C.

reactant | 8-bromo-5-methoxy-3,4-dihydrocarbostyril | BrC=1C=CC(=C2CCC(NC12)=O)OC | C10H10BrNO2
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 8-chloro-5-methoxy-3,4-dihydrocarbostyril | 13 g | ClC=1C=CC(=C2CCC(NC12)=O)OC | C10H10ClNO2
